US07326801B2
a) 2-[3-Methoxy-4-(4-phenyl-butoxy)-phenyl]-ethanol
To a solution of homovanillyl alcohol (10 g, 59.3 mmol) in dry methanol (140 ml), there is added 12 ml of 1N NaOCH3 in methanol. After addition of a solution of 1-bromo-4-phenylbutane (12.6 g, 59.3 mmol) in THF (10 ml) the reaction mixture is kept at reflux for 3 hours. After cooling the reaction is quenched with saturated aqueous NaHCO3 and extracted with ethyl acetate (2 times, 500 ml each). The organic layer is dried over MgSO4 and the solvent is removed by evaporation. The crude residue is then purified on silica gel using ethyl acetate/n-hexane (1/1) as mobile phase.

reactant | homovanillyl alcohol | 59.3 mmol, 10 g | C(CC1=CC(OC)=C(O)C=C1)O | C9H12O3
reactant | NaOCH3 | 1N, 12 ml | O([Na])C
reactant | 1-bromo-4-phenylbutane | 59.3 mmol, 12.6 g | BrCCCCC1=CC=CC=C1 | C10H13Br
solvent | methanol | 140 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[3-Methoxy-4-(4-phenyl-butoxy)-phenyl]-ethanol | COC=1C=C(C=CC1OCCCCC1=CC=CC=C1)CCO | C19H24O3
